US07692011B2
5-Acetamido-2,4-dichlorobenzoic acid (9.6 g, 0.039 mol) was added in small portions over 30 min to a stirred ice-cooled solution of fuming nitric acid (1.8 mL, 0.043 mol) and conc sulfuric acid (120 mL). After the addition was complete, more fuming nitric acid (17 mL) and conc sulfuric acid (80 mL) were added at 30 min and 60 min intervals. The reaction mixture was then left to stir for an additional 2.5 h at 0° C., allowed to warm to 12-16° C. and left to stir at this temperature until all starting material was consumed (about 3 h). The solution was poured onto ice and extracted with ethyl acetate (3×). The organic extracts were combined, washed with brine, dried, and concentrated to give 3-acetamido-4,6-dichloro-2-nitrobenzoic acid as an orange solid (9.8 g, 86%).

reactant | 5-Acetamido-2,4-dichlorobenzoic acid | 0.039 mol, 9.6 g | C(C)(=O)NC=1C(=CC(=C(C(=O)O)C1)Cl)Cl | C9H7Cl2NO3
reactant | nitric acid | 0.043 mol, 1.8 mL | [N+](=O)(O)[O-] | HNO3
reactant | nitric acid | 17 mL | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 80 mL | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 120 mL | S(O)(O)(=O)=O | H2O4S
product | 3-acetamido-4,6-dichloro-2-nitrobenzoic acid | 9.8 g, 86% | C(C)(=O)NC=1C(=C(C(=O)O)C(=CC1Cl)Cl)[N+](=O)[O-] | C9H6Cl2N2O5
